US06610711B2
1-(2-Bromoethoxy)-2,3-dichlorobenzene
To a mixture of 2,3-dichlorophenol (20 g, 0.123 mol) and 1,2-dibromoethane (30.5 g, 0.162 mol) was added a sodium hydroxide solution (5 g, 0.125 mol in 125 ml of water), and the mixture was heated under reflux for 8 h. The mixture was allowed to cool and extracted with chloroform (2×100 ml). The combined extracts were washed with 1N aqueous sodium hydroxide solution (100 ml), dried, filtered and concentrated in vacuo. The residue was distilled at 106° C./0.3 mm of mercury to afford on cooling to room temperature the title compound as a yellow solid (20 g, 60%).

reactant | 2,3-dichlorophenol | 0.123 mol, 20 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | 1,2-dibromoethane | 0.162 mol, 30.5 g | BrCCBr | C2H4Br2
reactant | sodium hydroxide | 0.125 mol, 125 ml, 5 g | [OH-].[Na+]
product | 1-(2-Bromoethoxy)-2,3-dichlorobenzene | 20 g, 60% | BrCCOC1=C(C(=CC=C1)Cl)Cl | C8H7BrCl2O
